US04794188
2-(3-(6-Phenoxy-1,2,2-trimethyl-1-hydroxyhexyl)phenoxymethyl) quinoline
To a solution of the ketone, 2-(3-(6-phenoxy-2,2-dimethyl hexanoyl)phenoxymethyl) quinoline (3.6 g) in dry ether (100 ml) at 0° C., was added dropwise, an ethereal solution of methyl magnesiumbromide (7.7 ml, 23.8 mmol, 3 eqv.) under an atmosphere of nitrogen. The clear orange solution was stirred overnight at room temperature. To this solution, a saturated ammonium chloride solution was added when the magnesium salts precipitated. The ether layer was separated, washed with water and brine, and then dried over MgSO4. All volatiles were removed to obtain the crude product (4.2 g). This was purified by chromatography on silica gel (25% ethyl acetate in hexanes, 20% ethyl acetate in hexanes and finally 10% ethyl acetate in hexanes) to obtain the pure product as a yellow liquid (0.9 g).

reactant | 2-(3-(6-phenoxy-2,2-dimethyl hexanoyl)phenoxymethyl) quinoline | 3.6 g | O(C1=CC=CC=C1)CCCCC(C(=O)C=1C=C(OCC2=NC3=CC=CC=C3C=C2)C=CC1)(C)C | C30H31NO3
reactant | methyl magnesiumbromide | 23.8 mmol, 7.7 ml, 3 eqv. | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 100 ml | CCOCC | C4H10O
product | 2-(3-(6-Phenoxy-1,2,2-trimethyl-1-hydroxyhexyl)phenoxymethyl) quinoline | 0.9 g | O(C1=CC=CC=C1)CCCCC(C(O)(C)C=1C=C(OCC2=NC3=CC=CC=C3C=C2)C=CC1)(C)C | C31H35NO3
